US05595989
To a solution of acridone (15 g, 0.077 mol) in dry dimethylformamide (200 ml), sodium hydride (3.7 g, 0.092 mol, 60% dispersion in mineral oil) was added in 4 portions under an atmosphere of nitrogen. The reaction mixture was stirred until gas evolution had ceased. A solution of 2-(3-bromo-1-propyloxy)tetrahydro-2H-pyran (21.7 g, 0.092 mol) in dry dimethylformamide (100 ml) was added dropwise. The reaction mixture was heated to 80° C. for 4 h and stirred overnight at room temperature. The reaction mixture was poured onto ice water (800 ml) and extracted with ethyl acetate (4×200 ml). The combined ethyl acetate extracts were washed with water (3×300 ml), dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was dissolved in diethyl ether (150 ml) and unchanged starting material was filtered off. The solvent was evaporated in vacuo and the residue was crystallised from 96% ethanol (150 ml), filtered and washed with ethanol (96%, 30 ml) and diethyl ether (50 ml). This procedure was repeated twice, yielding 8.5 g (33%) of 10-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propyl)acridin-9-one as yellowish crystals. M.p. 140.5°-141.5° C.

reactant | acridone | 0.077 mol, 15 g | C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H9NO
reactant | sodium hydride | 0.092 mol, 3.7 g | [H-].[Na+]
reactant | 2-(3-bromo-1-propyloxy)tetrahydro-2H-pyran | 0.092 mol, 21.7 g | BrCCCOC1OCCCC1 | C8H15BrO2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 10-(3-(tetrahydro-2H-pyran-2-yloxy)-1-propyl)acridin-9-one | 8.5 g, 33% | O1C(CCCC1)OCCCN1C=2C=CC=CC2C(C2=CC=CC=C12)=O | C21H23NO3
